US05461055
Preparation of 1-chloro-2-(4-methoxypheny)-ethane
4-methoxy-phenethyl alcohol (15.2 g, 10 mmol) were dissolved in 200 ml of dichloromethane and at 0° C., 7.35 ml of thionyl chloride were added. The reaction mixture was allowed to warm to room temperature over 1/2 hour. After stirring for 20 hours, the mixture was added to brine and extracted with dichloromethane. The dichloromethane was evaporated to obtain an oil which was chromatographed on silica gel using a mixture of 30% ethyl acetate/hexane as the eluent to obtain 8.8 g (51%) of the title product.

reactant | 4-methoxy-phenethyl alcohol | 10 mmol, 15.2 g | COC1=CC=C(CCO)C=C1 | C9H12O2
reactant | thionyl chloride | 7.35 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 1-chloro-2-(4-methoxypheny)-ethane | 8.8 g, 51% | ClCCC1=CC=C(C=C1)OC | C9H11ClO
